US06468998B1
Bis(2-pyridyl)acetic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)bis(2-pyridyl)acetamide.

reactant | Bis(2-pyridyl)acetic acid | N1=C(C=CC=C1)C(C(=O)O)C1=NC=CC=C1 | C12H10N2O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)bis(2-pyridyl)acetamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(C(C1=NC=CC=C1)C1=NC=CC=C1)=O | C24H26N4O
